US07919519B2
Synthesized according to Scheme B1 and general procedure I from 4-(5-benzylbenzo[d]thiazol-2-yl)-3-fluorobenzaldehyde (0.057 g, 0.16 mmol) and methyl 3-hydroxyazetidine-3-carboxylate (0.031 g, 0.16 mmol) to give methyl 1-((4-(5-benzylbenzo[d]thiazol-2-yl)-3-fluorophenyl)methyl)-3-hydroxyazetidine-3-carboxylate. 1H NMR (300 MHz, CDCl3) δ ppm 8.37 (t, J=7.7 Hz, 1H), 7.93 (s, 1H), 7.84 (d, J=8.2 Hz, 1H), 7.21-7.35 (m, 8H), 4.15 (s, 2H), 3.93-4.07 (m, 7H), 3.52-3.67 (m, 2H). MS (ESI) m/z: Calculated: 462.1 Observed: 463.1 (M++1).

reactant | 4-(5-benzylbenzo[d]thiazol-2-yl)-3-fluorobenzaldehyde | 0.16 mmol, 0.057 g | C(C1=CC=CC=C1)C=1C=CC2=C(N=C(S2)C2=C(C=C(C=O)C=C2)F)C1 | C21H14FNOS
reactant | methyl 3-hydroxyazetidine-3-carboxylate | 0.16 mmol, 0.031 g | OC1(CNC1)C(=O)OC | C5H9NO3
product | methyl 1-((4-(5-benzylbenzo[d]thiazol-2-yl)-3-fluorophenyl)methyl)-3-hydroxyazetidine-3-carboxylate | C(C1=CC=CC=C1)C=1C=CC2=C(N=C(S2)C2=C(C=C(C=C2)CN2CC(C2)(C(=O)OC)O)F)C1 | C26H23FN2O3S
